US05013863
A suspension of 2.46 g of 3-aminopropylphosphonous acid in 20 ml of hexamethyldisilazane is heated to reflux under an inert atmosphere for 24 hours after which a clear solution results. The excess hexamethyldisilazane is removed by distillation at atmospheric pressure under a slight positive pressure of inert gas to afford a colourless oil. The oil is cooled to circa 66° and treated with 0.64 g of anhydrous zinc iodide and 4.62 g of N-(2,3-epoxypropyl)phthalimide. An exothermic reaction occurs. The reaction mixture is refluxed for 6 hours after which time thin layer chromatography indicates the reaction to be complete. The reaction mixture is filtered and the filtrate evaporated to dryness in vacuo at 40°. The residue is dissolved in water and stirred at room temperature for 1 hour and the water removed in vacuo to give an oily solid. This is dissolved in 25 ml of 2.0 M aqueous hydrochloric acid and washed with dichlormethane and ether. Removal of the water at 40° in vacuo affords a brown solid which is purified by ion-exchance chromatography on DOWEX® 50 W x 8 (14-40 mesh) to give 3-aminopropyl(2-hydroxy3-phthalimido-propyl)phosphinic acid, m.p. 268°-71°, as a white solid.

reactant | 3-aminopropylphosphonous acid | 2.46 g | NCCCP(O)O | C3H10NO2P
reactant | N-(2,3-epoxypropyl)phthalimide | 4.62 g | O1C(CN2C(C=3C(C2=O)=CC=CC3)=O)C1 | C11H9NO3
solvent | hexamethyldisilazane | 20 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | hydrochloric acid | 2.0 M, 25 ml | Cl | ClH
catalyst | zinc iodide | 0.64 g | [I-].[Zn+2].[I-]
product | 3-aminopropyl(2-hydroxy3-phthalimido-propyl)phosphinic acid | NCCCP(O)(=O)CC(CN1C(C=2C(C1=O)=CC=CC2)=O)O | C14H19N2O5P
